US07390910B2
Adamantan-1-yl-methylamino-acetic acid
Adamantan-1-yl-iodo-acetic acid (7.86 g, 24.55 mmol, P. A. Krasutskii. et. Al.;J. Org. Chem. USSR (Engl. Trans.); 1985; 1327-1332) is refluxed with 100 mL of 2M methylamine in tetrahydrofuran for 18 hours. The solvent is evaporated in vacuo, and the residue treated with water. The pH is adjusted to 6 and the resulting solid collected and dried to give 2.16 g of the title compound as a white solid. MS: m/z 224.2 (M+1).

reactant | Adamantan-1-yl-iodo-acetic acid | C12(CC3CC(CC(C1)C3)C2)C(C(=O)O)I | C12H17IO2
reactant | methylamine | 2M, 100 mL | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Adamantan-1-yl-methylamino-acetic acid | 2.16 g | C12(CC3CC(CC(C1)C3)C2)C(C(=O)O)NC | C13H21NO2
